US09278931B2
A) tert-butyl{trans-2-[4-({[3-(trifluoromethyl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (100 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (4 mL) were added 3-(trifluoromethyl)benzoyl chloride (126 mg) and triethylamine (84 μL). The mixture was stirred at room temperature for 30 min and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was crystallized (hexane/ethyl acetate) to give the title compound (161 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 100 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-(trifluoromethyl)benzoyl chloride | 126 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | triethylamine | 84 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | tert-butyl{trans-2-[4-({[3-(trifluoromethyl)phenyl]carbonyl}amino)phenyl]cyclopropyl}-carbamate | 161 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C22H23F3N2O3
